US08729105B2
Preparation of 2-(4-Chloro-phenyl)-3-cyclopropylmethoxy-pyridine 1-oxide
To a solution of 5 g 2-(4-chloro-phenyl)-3-cyclopropylmethoxy-pyridine in 15 mL acetic acid, 3 mL hydrogenperoxyde (30% in water) was added. The reaction mixture was then stirred at 70° C. for 15 h. The reaction mixture was diluted with water and quenched with sodium carbonate. The mixture was washed with methylene chloride. The organic phase was washed with water; then dried over MgSO4 and purified by chromatography on silica gel with a gradient of ethyl acetate to ethyl acetate:methanol 4:1 to yield 3.46 g (65.19%) of the title compound as white solid, MS 276.1 (M+H)+.

reactant | 2-(4-chloro-phenyl)-3-cyclopropylmethoxy-pyridine | 5 g | ClC1=CC=C(C=C1)C1=NC=CC=C1OCC1CC1 | C15H14ClNO
reactant | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-(4-Chloro-phenyl)-3-cyclopropylmethoxy-pyridine 1-oxide | 3.46 g, 65.19% | ClC1=CC=C(C=C1)C1=[N+](C=CC=C1OCC1CC1)[O-] | C15H14ClNO2
